US04178442
5-benzyloxy-8-morpholinocarbonylamino-1,4-benzodioxane (XIk)
A mixture of 38 g of 5-benzyloxy-8-ethoxycarbonylamino-1,4-benzodioxane (XIg), code number 770 522, and 300 ml of morpholine was brought to reflux for 16 hours, in the presence of a pinch of ammonium chloride. Then the morpholine in excess was evaporated and the residue was recrystallized in 96° ethanol.

reactant | 5-benzyloxy-8-ethoxycarbonylamino-1,4-benzodioxane | 38 g | C(C1=CC=CC=C1)OC1=CC=C(C=2OCCOC21)NC(=O)OCC | C18H19NO5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | morpholine | 300 ml | N1CCOCC1 | C4H9NO
product | 5-benzyloxy-8-morpholinocarbonylamino-1,4-benzodioxane | C(C1=CC=CC=C1)OC1=CC=C(C=2OCCOC21)NC(=O)N2CCOCC2 | C20H22N2O5
